US06916937B2
Step C: 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-trihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one; 3-(S)-Ia:
To a round bottom flask containing a solution of 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-tris-benzyloxy-6-(R)benzyloxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one; (3-(S)-VI) (0.768 g, 0.84 mmol) in 1:1 ethanol:ethyl acetate (6 mL) was added platinum oxide (0.095 g, 0.42 mmol). The reaction was allowed to run at room temperature under a hydrogen atmosphere for 6 days. Once complete, the reaction was filtered through a bed of celite and purified via reverse phase column chromatography (C18, 1:1 water:acetonitrile). The title compound was isolated as a white solid (0.279 g, 60%). 1H NMR (MeOH-D4, 400 MHz): δ 7.74 (m, 2H), 7.59 (d, 2H, J=8.8 Hz), 7.41 (m, 4H), 7.30 (dd, 2H, J=5.5 Hz, 2.3 Hz), 6.96 (m, 2H), 5.62 (d, 1H, J=10.8 Hz), 5.55 (d, 1H, J=11.3 Hz), 5.48 (d, 1H, J=10.8 Hz), 5.39 (d, 1H, J=11.2 Hz), 5.07 (d, 1H, J=3.8 Hz), 4.50 (d, 1H, J=7.8 Hz), 3.87 (dd, 1H, J=10 Hz, 1 Hz), 3.68 (m, 4H), 3.54 (d, 6H, J=2.6 Hz), 3.51 (d, 1H, J=4.6 Hz), 3.45 (d, 1H, J=3.8 Hz), 3.43 (d, 1H, J=3.8 Hz), 3.38 (m, 1H), 3.33 (m, 2H), 3.24 (m, 1H ); LRMS: 569 [M+NH4]+.

reactant | 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-tris-benzyloxy-6-(R)benzyloxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)COC1O[C@@H]([C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O)F)OC | C51H46ClF4NO8
reactant | ethanol | C(C)O | C2H6O
catalyst | platinum oxide | 0.42 mmol, 0.095 g | [Pt]=O
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-trihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)COC1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)=O)F)OC | C23H22ClF4NO8
